US08664210B2
(E)-3-(2-Aminoethoxyimino)-4,4-dimethyl-5α,6α-epoxyandrostan-17β-ol hydrochloride (I-av)
The title compound was prepared as described in Example 2 starting from 5α,6α-epoxy-17β-hydroxy-4,4-dimethylandrostan-3-one, (Preparation 8, 54 mg) and 2-aminoethoxyamine dihydrochloride (97 mg). The solution was evaporated, water was added and the aqueous phase was extracted with THF. The combined organic extracts were washed with brine, dried over Na2SO4 and evaporated to dryness. The crude product was triturated with diisopropyl ether/MeOH 95/5 and the precipitate was filtered to give the title compound (47 mg, 68%).

reactant | 5α,6α-epoxy-17β-hydroxy-4,4-dimethylandrostan-3-one | O1[C@]23[C@@H]1C[C@H]1[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]1[C@]3(CCC(C2(C)C)=O)C)O | C21H32O3
reactant | 2-aminoethoxyamine dihydrochloride | 97 mg | Cl.Cl.NCCON
product | (E)-3-(2-Aminoethoxyimino)-4,4-dimethyl-5α,6α-epoxyandrostan-17β-ol hydrochloride | 47 mg, 68% | Cl.NCCO\N=C/1\C([C@]23[C@H](C[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)O)O3)(C)C | InChI=1S/C23H38N2O3.ClH/c1-20(2)17(25-27-12-11-24)8-10-22(4)16-7-9-21(3)15(5-6-18(21)26)14(16)13-19-23(20,22)28-19;/h14-16,18-19,26H,5-13,24H2,1-4H3;1H/b25-17+;/t14-,15-,16-,18-,19-,21-,22+,23+;/m0./s1
